US05545636
1-N-(1-N-(trifluoroacetyl)piperidin-4-yl)-indole
To an ice cooled solution of 1-N-(piperidin-4-yl)indole (1.0 g, 5 mmol) in dry pyridine (5 mL) was carefully added trifluoroacetic acid anhydride (0.71 mL, 5 mmol). After stirring for 48 hours at ambient temperature, all volatiles were evaporated. The residue was redissolved and evaporated with toluene (×2). The residue was taken up in water and extracted twice with t-butyl methyl ether. The combined organic phase was washed with water, dried, and evaporated. The residue was triturated with ether. The crystalline precipitate formed was separated and discarded. After evaporation of the filtrate, the residue was purified by column chromatography on silica gel eluting with toluene/acetone 98:2 to give 410 mg of off white crystals (28% of theory). M.Pt.: 130°-132° C.

reactant | 1-N-(piperidin-4-yl)indole | 5 mmol, 1.0 g | N1CCC(CC1)N1C=CC2=CC=CC=C12 | C13H16N2
reactant | trifluoroacetic acid anhydride | 5 mmol, 0.71 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 1-N-(1-N-(trifluoroacetyl)piperidin-4-yl)-indole | FC(C(=O)N1CCC(CC1)N1C=CC2=CC=CC=C12)(F)F | C15H15F3N2O
